US04041058
(3S,7R)-Ethyl-8-tert. butoxy-3,7-dimethyloctanoate
A mixture of 1.104 g. (4.084 mmoles) of (3R,7R)-E-Ethyl 8-tert. butoxy-3,7-dimethyl-4-octenoate, a small amount of Raney nickel, and 30 ml. of ethyl acetate was stirred in an atmosphere of hydrogen, at room temperature, for 2 hours during which time approximately one equivalent of hydrogen was taken up. The catalyst was filtered off and washed with ethyl acetate. Concentration of the combined filtrate and washes in vacuo followed by evaporative distillation afforded 1.045 g. (95%) of saturated ester (3S,7R)-Ethyl 8-tert. butoxy-3,7-dimethyloctanoate as a colorless oil, b.p. 80°-83° C. (bath temperature) (0.15 mm Hg.).

reactant | (3R,7R)-E-Ethyl 8-tert. butoxy-3,7-dimethyl-4-octenoate | 4.084 mmoles | C(C)(C)(C)OC[C@@H](C/C=C/[C@@H](CC(=O)OCC)C)C | C16H30O3
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | approximately one equivalent | [H][H] | H2
catalyst | Raney nickel | [Ni] | Ni
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,7R)-Ethyl-8-tert. butoxy-3,7-dimethyloctanoate | C(C)OC(C[C@H](CCC[C@H](COC(C)(C)C)C)C)=O | C16H32O3
